US07053089B2
A mixture of 4-(benzyloxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester (35 g) and 50 mL of 4N HCl in dioxane was stirred at room temperature for 3 h, then diluted with 200 mL of ether and filtered. There was obtained piperidin-4-ylmethyl-carbamic acid benzyl ester hydrochloride salt as a white fluffy solid. The free base was obtained by partitioning the hydrochloride between chloroform (50 mL) and saturated aqueous Na2CO3 (50 mL).

reactant | 4-(benzyloxycarbonylamino-methyl)-piperidine-1-carboxylic acid tert-butyl ester | 35 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)OCC1=CC=CC=C1 | C19H28N2O4
reactant | HCl | 4N, 50 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | ether | 200 mL | CCOCC | C4H10O
product | piperidin-4-ylmethyl-carbamic acid benzyl ester hydrochloride salt | Cl.C(C1=CC=CC=C1)OC(NCC1CCNCC1)=O | InChI=1S/C14H20N2O2.ClH/c17-14(16-10-12-6-8-15-9-7-12)18-11-13-4-2-1-3-5-13;/h1-5,12,15H,6-11H2,(H,16,17);1H
